US09212257B2
3) Synthesis of 2,2′-((1,3,3-trimethyl-2-oxabicyclo[2.2.2]octane-6,7-diyl)bis(oxy)) diethanol
Concentrated aqueous HCl) 0.5 ml) was added to a solution of 1,3,3-trimethyl-6,7-bis(2-((tetrahydro-2H-pyran-2-yl)oxy)ethoxy)-2-oxabicyclo[2.2.2]octane 0.8 g, 10 mmol) in methanol (30 ml). The solution was stirred over night at ambient temperature after which time no traces of starting material were present by TLC (SiO2/CHCl3/MeOH, 100:1, (v/v)). The solution was filtered, concentrated and the residue was dissolved in CHCl3 and dried (K2CO3) to yield (2.46 g. 9 mmol, 90%) as a yellow oil.

reactant | HCl | Cl | ClH
reactant | 1,3,3-trimethyl-6,7-bis(2-((tetrahydro-2H-pyran-2-yl)oxy)ethoxy)-2-oxabicyclo[2.2.2]octane | 10 mmol, 0.8 g | CC12OC(C(CC1OCCOC1OCCCC1)CC2OCCOC2OCCCC2)(C)C | C24H42O7
solvent | methanol | 30 ml | CO | CH4O
product | 2,2′-((1,3,3-trimethyl-2-oxabicyclo[2.2.2]octane-6,7-diyl)bis(oxy)) diethanol | CC12OC(C(CC1OCCO)CC2OCCO)(C)C | C14H26O5
